US05998668
Into a 200-ml autoclave (made of Hastelloy) were introduced 50 g of methyl 3-oxopentanoate (manufactured by Wacker Chemicals Co., Ltd.) and 75 ml of methanol. The atmosphere in the autoclave was replaced with nitrogen gas. Thereto was added a solution prepared by dissolving 325 mg of Ru2Cl4 ((+)-(T)BINAP)2Et3N as a ruthenium-optically active phosphine complex in 3.8 ml of methylene chloride. Asymmetric hydrogenation was conducted at a reaction temperature of 30° C. and a hydrogen pressure of 30 atm. After the reaction mixture was thus reacted for 50 hours, it was taken out of the autoclave. The methanol was distilled off, and the residue was subjected to vacuum distillation to obtain 49.8 g of methyl (R)-3-hydroxypentanoate. Yield, 98%.

reactant | methyl 3-oxopentanoate | 50 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | methanol | 75 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | methylene chloride | 3.8 ml | C(Cl)Cl | CH2Cl2
catalyst | ruthenium | [Ru] | Ru
product | methyl (R)-3-hydroxypentanoate | 49.8 g | O[C@@H](CC(=O)OC)CC | C6H12O3
